US03974161
B. Ethyl Pyrimido[4,5-b]quinoline-4(3H)-one-2-carboxylate
The same compound is obtained by: (a) refluxing equimolar amounts of 1-carbethoxyformimidate and ethyl 2-aminoquinoline-3-carboxylate in ethanol for three hours. The reaction mixture is concentrated, the product collected by filtration and recrystallized from hot chloroform; or (b) refluxing equimolar amounts of 1-carbethoxyformamidine and 2-aminoquinoline-3-carboxamide in ethanol for 3-4 hours in the presence of an equimolar amount of sodium ethoxide. The reaction mixture is worked up as described in (a) above.

reactant | 1-carbethoxyformimidate | C(=O)(OCC)C([O-])=N
reactant | ethyl 2-aminoquinoline-3-carboxylate | NC1=NC2=CC=CC=C2C=C1C(=O)OCC | C12H12N2O2
solvent | ethanol | C(C)O | C2H6O
product | Ethyl Pyrimido[4,5-b]quinoline-4(3H)-one-2-carboxylate | N1=C(NC(C=2C1=NC1=CC=CC=C1C2)=O)C(=O)OCC | C14H11N3O3
